US04002759
1,1-Dicyano-2-methylamino-2-[4-(3-chloro-2-pyridyl)butylamino]-ethylene
Reaction of 3-chloro-2-(4-aminobutyl)pyridine with 1,1-dicyano-2-methylthio-2-methylaminoethylene in acetonitrile at room temperature for one hour yields the title product.

reactant | 3-chloro-2-(4-aminobutyl)pyridine | ClC=1C(=NC=CC1)CCCCN | C9H13ClN2
reactant | 1,1-dicyano-2-methylthio-2-methylaminoethylene | C(#N)C(=C(NC)SC)C#N | C6H7N3S
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,1-Dicyano-2-methylamino-2-[4-(3-chloro-2-pyridyl)butylamino]-ethylene | C(#N)C(=C(NCCCCC1=NC=CC=C1Cl)NC)C#N | C14H16ClN5
